US05395752
This acid was prepared according to the procedure of W. H. Meek et al. J. Chemical and Engineering Data, 14(3), 388, (1969). To a solution of 2,6-diisopropylphenol (Aldrich cat. #D12660-8) (37.0 ml, 0.20 mol) in anhydrous N,N-dimethylacetamide (150 ml) was added sodium methoxide (16.2 g, 0.30 mol). Carbon dioxide was passed through the mixture throughout the subsequent reaction period. The mixture was heated with stirring and the solvent was slowly distilled out during 2 hours of the period until the pot temperature reached to 180° C.. The mixture was allowed to continue stirring at 180° C. for another 1.5 hours and then cooled to 90° C. The flow of carbon dioxide was discontinued and water (400 ml) was added. The mixture, after further cooled to room temperature, was washed with toluene (4×60 ml) and then treated with conc. hydrochloric acid in an ice-water bath to pH 3. The resulting mixture was extracted with diethyl ether (2×150 ml); the ether extract was washed with brine (100 ml) and dried over anhydrous magnesium sulfate. Removal of the solvent under reduced pressure gave 3,5-diisopropyl-4-hydroxybenzoic acid (10.4 g, 23%). Rf 0.5 (silica gel, 50% diethyl ether/hexane). MS (CI, CH4): m/z 223 (M+1).

reactant | 2,6-diisopropylphenol | 0.20 mol, 37.0 ml | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
reactant | sodium methoxide | 0.30 mol, 16.2 g | C[O-].[Na+]
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | N,N-dimethylacetamide | 150 ml | CN(C(C)=O)C | C4H9NO
product | 3,5-diisopropyl-4-hydroxybenzoic acid | 10.4 g, 23% | C(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)C | C13H18O3
